US06323235B1
Methyl (3-(2-(bis(4-hydroxyphenyl)methylthio)ethyl)-2-methylbenzofuran-7-yloxy)acetate
Methyl (3-(2-hydroxyethyl)-2-methylbenzofuran-7-yloxy)acetate (203 mg) and triethylamine (0.16 ml) were dissolved in dichloromethane (4 ml) and the obtained solution was cooled to 0° C. To this solution, methanesulfonyl chloride (0.071 ml) was added and the solution was stirred at 0° C. for 20 minutes. The reaction solution was poured into water layer (50 ml) and the resultant was extracted twice with ethyl acetate (20 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. The sodium sulfate was removed by filtration and the solvent was removed under reduced pressure. The obtained residue was dissolved in DMF (2.5 ml) and the obtained solution was added to a separately prepared solution of bis(4-tetrahydropyranyloxyphenyl)methanethiol (369 mg) and potassium t-butoxide (104 mg) in DMF (2 ml), followed by stirring the resulting solution at room temperature for 30 minutes. To this reaction solution, 1N hydrochloric acid (1.5 ml) was added and the solution was stirred for 1 hour. The reaction solution was poured into water layer (50 ml) and the resultant was extracted twice with ethyl acetate (20 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=1/1)using silica gel to obtain the desired compound (54 mg, yield: 15%).

reactant | Methyl (3-(2-hydroxyethyl)-2-methylbenzofuran-7-yloxy)acetate | 203 mg | OCCC1=C(OC2=C1C=CC=C2OCC(=O)OC)C | C14H16O5
reactant | triethylamine | 0.16 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.071 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 50 ml | O | H2O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | Methyl (3-(2-(bis(4-hydroxyphenyl)methylthio)ethyl)-2-methylbenzofuran-7-yloxy)acetate | 54 mg, yield: 15% | OC1=CC=C(C=C1)C(SCCC1=C(OC2=C1C=CC=C2OCC(=O)OC)C)C2=CC=C(C=C2)O | C27H26O6S
